US06858638B2
N-Methyl-5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxamide can be obtained as described in Example 2 from 40 mg of N-methyl-5-amino-1H-indazole-3-carboxamide, 1.2 ml of pyridine and 40 mg of 3-fluorobenzenesulfonyl chloride. 20 mg of N-methyl-5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxamide are thus obtained in the form of an off-white solid melting above 260° C. (Analysis C15H13N4O3S.0.74H2O % calculated C, 51.72; H, 3.76; F, 5.45; N, 16.08; O, 13.78; S, 9.20. % found C, 51.74; H, 3.31; N, 15.71; S, 8.36).

reactant | N-methyl-5-amino-1H-indazole-3-carboxamide | 40 mg | CNC(=O)C1=NNC2=CC=C(C=C12)N | C9H10N4O
reactant | 3-fluorobenzenesulfonyl chloride | 40 mg | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxamide | 20 mg | CNC(=O)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=CC(=CC=C1)F | C15H13FN4O3S
